US04904301
Preparation of 2-Benzylthio-5-fluoromethyl-7-chloro-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 17.0 g (58.6 mmol) of 2-benzylthio-5-fluoromethyl-7-hydroxy-1,2,4-triazolo[1,5-a]pyrimidine and 100 ml of phosphorus oxychloride was heated at reflux for three hours and was then concentrated by simple distillation using a water aspirator to reduce the pressure to obtain a dark, viscous oil. This was dissolved in 300 ml of methylene chloride and treated cautiously with stirring with 200 ml of water. The mixture was stirred vigorously for 30 min. at ambient temperature and then allowed to separate into phases. The organic phase was separated, washed with water and saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure to obtain a dark oil. This solidified on trituration in hexane containing a little methylene chloride to yield 12.2 g (67 percent of theory) of the title compound as a tan solid melting at 81°-86° C.

reactant | 2-benzylthio-5-fluoromethyl-7-hydroxy-1,2,4-triazolo[1,5-a]pyrimidine | 58.6 mmol, 17.0 g | C(C1=CC=CC=C1)SC1=NN2C(N=C(C=C2O)CF)=N1 | C13H11FN4OS
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 2-Benzylthio-5-fluoromethyl-7-chloro-1,2,4-triazolo[1,5-a]pyrimidine | C(C1=CC=CC=C1)SC1=NN2C(N=C(C=C2Cl)CF)=N1 | C13H10ClFN4S
